US04048180
To stirred liquid ammonia (2 liters) was added ferric nitrate (0.1 gm) followed by potassium metal (14 gms) in 1 gram pieces over a period of 20 minutes. To the resulting solution 3-(4-pyridyl)-propionaldehyde diethyl acetal (21 gms) was added over a period of 3 minutes and a deep yellow colour was allowed to develop over a period of 2 hours. Liquid ethylene oxide (25 mls) was then added and the mixture was stirred for a further 3 hours. Solid ammonium chloride (20 gms) was added in small portions followed by diethyl ether (1 liter). The ammonia was allowed to evaporate overnight and the residual mixture was filtered. The solvent was evaporated from the filtrate and the residual oil was distilled to give 1,1-diethoxy-3-(4-pyridyl)-pentan-5-ol (18 gms, 70% conversion) b.p. 170°-175° C/1 mm Hg, as a thick colourless oil.

reactant | ammonia | 2 liters | N | H3N
reactant | potassium | 14 gms | [K] | K
reactant | 3-(4-pyridyl)-propionaldehyde diethyl acetal | 21 gms | C(C)OC(CCC1=CC=NC=C1)OCC | C12H19NO2
reactant | ethylene oxide | 25 mls | C1CO1 | C2H4O
reactant | ammonium chloride | 20 gms | [Cl-].[NH4+]
solvent | diethyl ether | 1 liter | C(C)OCC | C4H10O
product | 1,1-diethoxy-3-(4-pyridyl)-pentan-5-ol | 18 gms, 70% | C(C)OC(CC(CCO)C1=CC=NC=C1)OCC | C14H23NO3
